US08703808B2
A mixture of indole-3-carbaldehyde (1 g, 6.9 mmol, 1.0 eq.) and pyridin-3-ylamine (843 mg, 9.0 mmol, 1.3 eq.) in anhydrous dichloromethane (15 mL) was heated in a sealed tube at reflux temperature for 36 hours. The reaction was allowed to cool to room temperature and then, the insoluble was filtered, washed with dichloromethane and diethyl ether to afford (Z)-(1H-indol-3-ylmethylene)-pyridin-3-amine as a beige powder (1.5 g, Rdt: 98%).

reactant | indole-3-carbaldehyde | 6.9 mmol, 1 g, 1.0 eq. | N1C=C(C2=CC=CC=C12)C=O | C9H7NO
reactant | pyridin-3-ylamine | 9.0 mmol, 843 mg, 1.3 eq. | N1=CC(=CC=C1)N | C5H6N2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | (Z)-(1H-indol-3-ylmethylene)-pyridin-3-amine | N1C=C(C2=CC=CC=C12)\C=N/C=1C=NC=CC1 | C14H11N3
